US06083989
Synthesis of N-Benzyl-α-(4-acetamidophenyl)nitrone
Using 4-acetamidobenzaldehyde and N-benzylhydroxylamine (prepared from the hydrochloride salt by treatment with K2CO3) and following the procedures described herein, the title compound was prepared as a yellow powder, m.p. 230.7-237.7° C.

reactant | 4-acetamidobenzaldehyde | C(C)(=O)NC1=CC=C(C=O)C=C1 | C9H9NO2
reactant | N-benzylhydroxylamine | C(C1=CC=CC=C1)NO | C7H9NO
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
product | N-Benzyl-α-(4-acetamidophenyl)nitrone | C(C1=CC=CC=C1)[N+](=CC1=CC=C(C=C1)NC(C)=O)[O-] | C16H16N2O2
